US07087605B2
7-tert-Butyl-2-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 200 mg (0.65 mmol) crude N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]-2,2-dimethylpropanamide, 165 mg (1.1 mmol) phosphoric trichloride are stirred at reflux for 4 hours, proportionate amounts of the solvents are used. The product is purified by chromatography (preparative HPLC).

reactant | N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]-2,2-dimethylpropanamide | 0.65 mmol, 200 mg | C1(CCCC1)C1=NN=C(C(N1)=O)C(CC)NC(C(C)(C)C)=O | C16H26N4O2
reactant | phosphoric trichloride | 1.1 mmol, 165 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-tert-Butyl-2-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C(C)(C)(C)C1=NC(=C2C(NC(=NN21)C2CCCC2)=O)CC | C16H24N4O
